US07625908B2
N-Methyl-N-{2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]ethyl}acetamide (261 mg, 1.00 mmol) and diiso-propylethylamine (522 μl, 3.00 mmol) were dissolved in DCM (25 ml), and the mixture cooled to 0° C. Phosphorus oxychloride (930 μl, 10 mmol) was added drop wise; the solution was warmed to ambient temperature and stirred for 2 hours. The mixture was cooled to 0° C., and saturated sodium hydrogen carbonate solution (30 ml) was added with vigorous stirring. The stirred mixture was allowed to warm to ambient temperature over 20 minutes. The DCM layer was separated, washed with saturated sodium hydrogen carbonate solution (30 ml), water (30 ml) and brine (30 ml), filtered through a silicone-treated filter paper, and evaporated to give N-{2-[(4-chloroquinazolin-5-yl)oxy]ethyl}-N-methylacetamide as an orange solid (90 mg, 32%); NMR Spectrum (DMSO-d6, 400 MHz, CDCl3) 2.05 (s, 3H), 3.17 (s, 3H), 3.85 (t, 2H), 4.28 (t, 2H), 6.99 (d, 1H), 7.58 (d, 1H), 7.76 (dd, 1H), 8.87 (s, 1H); Mass spectrum 276.4 MH+ (4-OMe derivative—product quenched with MeOH in instrument).

reactant | N-Methyl-N-{2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]ethyl}acetamide | 1.00 mmol, 261 mg | CN(C(C)=O)CCOC1=C2C(NC=NC2=CC=C1)=O | C13H15N3O3
reactant | diiso-propylethylamine | 3.00 mmol, 522 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Phosphorus oxychloride | 10 mmol, 930 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | N-{2-[(4-chloroquinazolin-5-yl)oxy]ethyl}-N-methylacetamide | 90 mg, 32% | ClC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)C | C13H14ClN3O2
